US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(5,6-difluorobenzofur-7-yl)piperidine
Beginning with 0.22 gm (0.94 mMol) 5,6-difluoro-7-bromobenzofuran and 0.21 gm (1.04 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 0.13 gm (38%) of the desired compound were prepared essentially as described in EXAMPLE 19.

reactant | 5,6-difluoro-7-bromobenzofuran | 0.94 mMol, 0.22 gm | FC=1C(=C(C2=C(C=CO2)C1)Br)F | C8H3BrF2O
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 1.04 mMol, 0.21 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(5,6-difluorobenzofur-7-yl)piperidine | 0.13 gm, 38% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C(=CC=2C=COC21)F)F)O)C | C21H21F2NO2
